US04155930
A mixture of 8.0 g of 8-(3-nitro-p-toluenesulfonamido)-1,3,5-naphthalene trisulfonic acid trisodium salt, 160 ml of water and 800 mg of 10% palladium on carbon catalyst is hydrogenated on a Parr shaker until no additional hydrogen is absorbed. The resulting mixture is filtered through diatomaceous earth and the filtrate is evaporated. The residue is dissolved in hot water and filtered. The filtrate is triturated with ethanol until cloudiness persists, then is allowed to stand at room temperature for 16 hours. The mixture is filtered and the filtrate evaporated to afford a gummy material which is dissolved in a small amount of water and triturated with ethanol. An additional 200 ml of ethanol is added and the mixture is stirred for one hour to provide a solid. The solid is collected and washed with ethanol and ether to yield 4.6 g of 8-(3-amino-p-toluenesulfonamido)-1,3,5-naphthalenetrisulfonic acid, trisodium salt as a light tan powder.

reactant | 8-(3-nitro-p-toluenesulfonamido)-1,3,5-naphthalene trisulfonic acid trisodium salt | 8.0 g | [Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=CC1S(=O)(=O)NC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-])C
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
solvent | water | O | H2O
solvent | water | 160 ml | O | H2O
product | 8-(3-amino-p-toluenesulfonamido)-1,3,5-naphthalenetrisulfonic acid | 4.6 g | NC=1C=C(C=CC1S(=O)(=O)NC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C | C17H16N2O11S4
